US07834030B2
To a solution of 485 mg of 2-difluoromethoxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile in 10 mL of methanol was added 4.166 mL of triethylamine followed by 316 mg of hydroxylamine hydrochloride. The resulting mixture was heated in a sealed tube to 140° C. under microwave irradiation for 30 minutes. After allowing it to cool down to room temperature, the mixture was poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from heptane 100 to heptane 60/ethyl acetate 40) to give 320 mg of 2-difluoromethoxy-N-hydroxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzamidine.

reactant | 2-difluoromethoxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile | 485 mg | FC(OC1=C(C#N)C=CC(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)F | C22H17F5N2O2S
reactant | triethylamine | 4.166 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 316 mg | Cl.NO
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2-difluoromethoxy-N-hydroxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzamidine | 320 mg | FC(OC1=C(C(=N)NO)C=CC(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)F | C22H20F5N3O3S
